US07884207B2
A mixture of 1-{[4-(dibenzylamino)-6,7-dimethyl-2-propyl-1H-imidazo[4,5-c]pyridin-1-yl]methyl}cyclohexanol (1.50 g, 3.02 mmol), ammonium formate (2.84 g, 45.0 mmol), and 10% palladium on carbon (1.50 g) in methanol (60 mL) and ethanol (120 mL) was heated at 85° C. for 2 h. More ammonium formate (1.00 g) was added and heating was continued of 3 h, then the reaction mixture was stirred overnight at rt. The mixture was filtered through CELITE filter agent and the filtrate was concentrated in vacuo. The crude product was purified using HPFC (gradient elution with 10-40% CMA/chloroform). The appropriate fractions were concentrated and the resulting solid was triturated with acetonitrile. A solid was isolated by filtration and dried at 100° C. under vacuum to provide 1-[(4-amino-6,7-dimethyl-2-propyl-1H-imidazo[4,5-c]pyridin-1-yl)methyl]cyclohexanol as a white powder (0.61 g, 64%), mp 214.0-216.0° C. Anal. Calcd for C18H29N4O C, 68.32; H, 8.92; N, 17.71. Found: C, 68.06; H, 8.65; N, 17.45

reactant | 1-{[4-(dibenzylamino)-6,7-dimethyl-2-propyl-1H-imidazo[4,5-c]pyridin-1-yl]methyl}cyclohexanol | 3.02 mmol, 1.50 g | C(C1=CC=CC=C1)N(C1=NC(=C(C2=C1N=C(N2CC2(CCCCC2)O)CCC)C)C)CC2=CC=CC=C2 | C32H40N4O
reactant | ammonium formate | 45.0 mmol, 2.84 g | C(=O)[O-].[NH4+]
reactant | ammonium formate | 1.00 g | C(=O)[O-].[NH4+]
catalyst | palladium on carbon | 1.50 g | [Pd] | Pd
solvent | methanol | 60 mL | CO | CH4O
solvent | ethanol | 120 mL | C(C)O | C2H6O
product | 1-[(4-amino-6,7-dimethyl-2-propyl-1H-imidazo[4,5-c]pyridin-1-yl)methyl]cyclohexanol | 0.61 g, 64% | NC1=NC(=C(C2=C1N=C(N2CC2(CCCCC2)O)CCC)C)C | C18H28N4O
